US07456169B2
methyl 4-[(tert-butoxycarbonyl)amino]-3-iodobenzoate
A mixture of methyl 4-amino-3-iodobenzoate (5.0 g, 18.0 mmol), di-tert-butyl dicarbonate (4.7 g, 21.7 mmol), triethylamine (7.6 mL, 54.2 mmol), 4-(dimethylamino)pyridine (22 mg, 0.18 mmol), and dichloromethane (150 mL) was heated overnight at 40° C., cooled to room temperature, concentrated under vacuum, diluted with ethyl acetate, washed with water and brine, dried (MgSO4), filtered and concentrated under vacuum. The residue was purified by column chromatography on silica gel to give the 3.4 g (50%) of the desired product. MS (ESI) m/e 395 (M+NH4)+; 1H NMR (300 MHz, DMSO-d6) □ 8.51 (s, 1H), 8.33 (d, J=2.0 Hz, 1H), 7.92 (dd, J=2.0, 8.5 Hz, 1H), 7.67 (d, J=8.5 Hz, 1H), 3.84 (s, 3H), 1.48 (s, 9H).

reactant | methyl 4-amino-3-iodobenzoate | 18.0 mmol, 5.0 g | NC1=C(C=C(C(=O)OC)C=C1)I | C8H8INO2
reactant | di-tert-butyl dicarbonate | 21.7 mmol, 4.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 54.2 mmol, 7.6 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 0.18 mmol, 22 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | methyl 4-[(tert-butoxycarbonyl)amino]-3-iodobenzoate | 3.4 g, 50% | C(C)(C)(C)OC(=O)NC1=C(C=C(C(=O)OC)C=C1)I | C13H16INO4
